US07148226B2
2-{4-[2-Cyclopentyl-4-hydroxy-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-oxo-3,6-dihydro-2H-pyran-2-ylmethoxy]-2-fluoro-phenyl}-2-methyl-propionitrile
A solution of 2-[4-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-ylmethoxy)-2-fluoro-phenyl]-2-methyl-propionitrile (200 mg, 0.54 mmol) in anhydrous MeOH (4.0 mL) was treated with 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (140 mg, 0.86 mmol), followed by borane-dimethylamine complex (47 mg, 0.8 mmol) at room temperature. The reaction was stirred for 5 hours before it was quenched by the addition of 0.5N HCl (25 mL). The mixture was extracted with 10% MeOH in CH2Cl2 (3×10 mL) and the combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by crystallization from EtOAc/Hexanes to give the product as a white solid (91 mg, 32% yield). 1H NMR (300 MHz, DMSO-d6) δ: 1.67 (m, 8 H), 1.70 (s, 6 H), 2.38 (s, 3 H), 2.55 (m, 1 H), 2.77 (m, 2 H), 3.77 (m, 2 H), 4.12 (m, 1 H), 4.44 (m, 1 H), 6.97 (m 2 H), 7.35 (m, 1 H), 8.69 (s, 1 H), 9.03 (s, 1 H), 10.98 (brs, 1 H).

reactant | 2-[4-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-ylmethoxy)-2-fluoro-phenyl]-2-methyl-propionitrile | 0.54 mmol, 200 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)COC1=CC(=C(C=C1)C(C#N)(C)C)F | C21H24FNO4
reactant | 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 0.86 mmol, 140 mg | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
solvent | MeOH | 4.0 mL | CO | CH4O
product | 2-{4-[2-Cyclopentyl-4-hydroxy-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-oxo-3,6-dihydro-2H-pyran-2-ylmethoxy]-2-fluoro-phenyl}-2-methyl-propionitrile | 91 mg, 32% yield | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=CC(=C2)C)=N1)=O)COC1=CC(=C(C=C1)C(C#N)(C)C)F | C28H30FN5O4
